US08293735B2
5-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 8-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane using octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester in place of 1,4-dioxa-8-aza-spiro[4.5]decane. The title compound was obtained as white solid (153 mg, 90%).

reactant | 8-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC1(OCCO1)CC2)N2CCOCC2 | C18H23ClN4O3S
reactant | octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2CNCCC21 | C12H22N2O2
product | 5-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2CN(CCC21)CC2=CC=1N=C(N=C(C1S2)N2CCOCC2)Cl | C23H32ClN5O3S
